US05091384
Preparation of N-(p-toluenesulfonyl)-3,4-bis(bromomethyl)-3-pyrroline
19 g of tetrakis (bromomethyl)ethylene and 9 g of p-toluene sulfonamide were disolved in 220 ml of dimethylformamide. 30 g of anhydrous potassium carbonate was added and then stirred at room temperature for 20 hours. Thereafter solvent was removed by vacuum distillation. 50 ml of ethylacetate was added to obtain solid product, and solid product was purified by silica gel column chromatography. 12 g of the title compound was obtained (yield 60%).

reactant | tetrakis (bromomethyl)ethylene | 19 g | BrCC(=C(CBr)CBr)CBr | C6H8Br4
reactant | p-toluene sulfonamide | 9 g | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
product | N-(p-toluenesulfonyl)-3,4-bis(bromomethyl)-3-pyrroline | 12 g, yield 60% | C1(=CC=C(C=C1)S(=O)(=O)N1CC(=C(C1)CBr)CBr)C | C13H15Br2NO2S
